US09278981B2
Stage 245.2 (3S,4S)-4-Aminopyrrolidin-3-ol dihydrochloride
(3S,4S)-tert-Butyl 3-amino-4-hydroxypyrrolidine-1-carboxylate (0.3 g, 1.439 mmol) in 1.25 M HCl 1.25 M in EtOH (11.51 mL, 14.39 mmol) was stirred for 24 h at RT. The white suspension was evaporated to dryness under reduced pressure and the residue was suspended in MeOH (10 mL) and evaporated again to afford the title compound.

reactant | (3S,4S)-tert-Butyl 3-amino-4-hydroxypyrrolidine-1-carboxylate | 1.439 mmol, 0.3 g | N[C@H]1CN(C[C@@H]1O)C(=O)OC(C)(C)C | C9H18N2O3
reactant | EtOH | 14.39 mmol, 11.51 mL | CCO | C2H6O
reactant | HCl | 1.25 M | Cl | ClH
product | (3S,4S)-4-Aminopyrrolidin-3-ol dihydrochloride | Cl.Cl.N[C@@H]1[C@H](CNC1)O | InChI=1S/C4H10N2O.2ClH/c5-3-1-6-2-4(3)7;;/h3-4,6-7H,1-2,5H2;2*1H/t3-,4-;;/m0../s1
